US04371531
Phosphoryl chloride (1.214 g.), N,N-dimethylformamide (0.579 g.) and ethyl acetate (3 ml.) were treated in a conventional manner to give a Vilmeier reagent. To the solution were added ethyl acetate (7 ml.) and 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetic acid (syn isomer, 2.18 g.) and treated in a similar manner to that of Example 24 to give an activated acid solution. The solution was added to a solution of 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (2.18 g.) and trimethylsilylacetamide (6.93 g.) in ethyl acetate (50 ml.), and the mixture was treated in a similar manner to that of Example 24 to give 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 3.00 g.)

reactant | Phosphoryl chloride | 1.214 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetic acid | 2.18 g | O1CCSC=C1C(C(=O)O)=NOCCCCCC | C12H19NO4S
reactant | 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.18 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
reactant | trimethylsilylacetamide | 6.93 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 7 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.579 g | CN(C=O)C | C3H7NO
product | 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.00 g | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCCCCCC | C22H27N5O6S4
